US07544697B2
The method described in Part F of Example 23 was followed using 4-bromo-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-methyl-1H-pyrazole-3-carbonitrile (1.85 g, 5.36 mmol) as the starting material with the modification that dichloromethane (25 mL) was used as the solvent for the reaction with di-tert-butyl dicarbonate (1.75 g, 8.00 mmol); this reaction was stirred overnight and filtered to remove a solid. The filtrate was concentrated under reduced pressure and purified by IFC to provide 1.438 g of tert-butyl (4-bromo-3-cyano-1-methyl-1H-pyrazol-5-yl)methylcarbamate as a white solid.

reactant | 4-bromo-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-methyl-1H-pyrazole-3-carbonitrile | 5.36 mmol, 1.85 g | BrC=1C(=NN(C1CN1C(C2=CC=CC=C2C1=O)=O)C)C#N | C14H9BrN4O2
reactant | di-tert-butyl dicarbonate | 8.00 mmol, 1.75 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | tert-butyl (4-bromo-3-cyano-1-methyl-1H-pyrazol-5-yl)methylcarbamate | 1.438 g | BrC=1C(=NN(C1CNC(OC(C)(C)C)=O)C)C#N | C11H15BrN4O2
